US04898871
N,N'-Carbonyldiimidazole (1.35 g) is added to a solution of [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid (3 g) in anhydrous dimethylformamide (70 cc), and the mixture is stirred for 2 hours at a temperature in the region of 25° C. Propylamine (0.4 g) is then added and the mixture is stirred again for 16 hours at a temperature in the region of 25° C. The reaction mixture is then poured into water (150 cc) and the precipitate obtained is separated by filtration, washed with water, dried under reduced pressure (0.05 kPa) and recrystallized in ethanol. [2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]-N-propylacetamide (2.95 g), m.p. 174° C., is thereby obtained.

reactant | [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid | 3 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)O | C19H15N3O5
reactant | Propylamine | 0.4 g | C(CC)N | C3H9N
reactant | water | 150 cc | O | H2O
solvent | dimethylformamide | 70 cc | CN(C=O)C | C3H7NO
product | [2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]-N-propylacetamide | 2.95 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)NCCC | C22H22N4O4
